US05245035
A solution of 2-ethyl-4-[(2'-(2-tributylstannyl-2H-tetrazol-5-yl)biphenyl-4-yl)methoxy]quinoline in toluene (15 ml), prepared in situ by refluxing for 90 hours a mixture of 4'-[(2-ethylquinolin-4-yloxy)methyl]biphenyl-2-carbonitrile (0.9 g) and a solution of tributyltin azide in toluene (15 ml) [the latter prepared by reaction of tributyltin chloride (3.3 g) and sodium azide (1.13 g) in water (22.5 ml) at ambient temperature for 4 hours, followed by extraction with toluene and azeotropic removal of water from the extract to leave a volume of 15 ml], was added slowly over 1 hour to a solution of sodium nitrite (2.5 g) in water (10 ml) containing 12% w/v hydrochloric acid (10 ml), maintaining the temperature of the mixture below 5° C. A solution of sulphamic acid (1.43 g) in water (10 ml) was then added, maintaining the temperature below 5° C., and the mixture stirred for 1 hour. The resultant suspended semi-solid was collected by filtration and washed with water (3×10 ml), followed by toluene (10 ml). The semi-solid was then added to tetrahydrofuran (THF) (40 ml), which caused the product to dissolve and then crystallise as a white solid. After cooling for one hour the solid was collected by filtration, washed with THF (5 ml) and dried to give 2-ethyl-4-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methoxy]-quinoline hydrochloride; NMR similar to the product obtained from Example 10.

reactant | 2-ethyl-4-[(2'-(2-tributylstannyl-2H-tetrazol-5-yl)biphenyl-4-yl)methoxy]quinoline | C(C)C1=NC2=CC=CC=C2C(=C1)OCC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)[Sn](CCCC)(CCCC)CCCC
reactant | 4'-[(2-ethylquinolin-4-yloxy)methyl]biphenyl-2-carbonitrile | 0.9 g | C(C)C1=NC2=CC=CC=C2C(=C1)OCC1=CC=C(C=C1)C=1C(=CC=CC1)C#N | C25H20N2O
reactant | tributyltin azide | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | tributyltin chloride | 3.3 g | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | sodium azide | 1.13 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium nitrite | 2.5 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | sulphamic acid | 1.43 g | S(N)(O)(=O)=O | H3NO3S
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 22.5 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 2-ethyl-4-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methoxy]-quinoline hydrochloride | Cl.C(C)C1=NC2=CC=CC=C2C(=C1)OCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | InChI=1S/C25H21N5O.ClH/c1-2-19-15-24(22-9-5-6-10-23(22)26-19)31-16-17-11-13-18(14-12-17)20-7-3-4-8-21(20)25-27-29-30-28-25;/h3-15H,2,16H2,1H3,(H,27,28,29,30);1H
